US03966773
Preparation of 3-hydroxy-1-iodo-4-octyne
A mixture of 15 g. of sodium iodide in 100 ml. of 2-butanone is stirred at the reflux temperature for 30 minutes. To the cooled mixture is added 12 g. of 1-chloro-3-hydroxy-4-octyne in 150 ml. of 2-butanone. The resulting mixture is stirred at the reflux temperature for 18 hours then cooled and filtered. The mother liquor is taken to dryness and the residue is triturated with benzene and filtered. The benzene is taken to dryness to give the subject product as an oil. The material is shown to be homogeneous by vapor phase chromatography and thin layer chromatography.

reactant | sodium iodide | [I-].[Na+]
reactant | 1-chloro-3-hydroxy-4-octyne | ClCCC(C#CCCC)O | C8H13ClO
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 3-hydroxy-1-iodo-4-octyne | OC(CCI)C#CCCC | C8H13IO
